US07122543B2
Methyl 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-phenylbenzoate
To a solution of methyl 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(trifluoromethanesulfonyl)oxybenzoate (102 mg, 0.2007 mmol) in toluene (2.3 ml) were added tetrakistriphenylphosphine palladium (4.6 mg, 0.0039 mmol), aqueous solution of sodium carbonate (2M aqueous solution, 0.35 ml), lithium chloride (17 mg, 0.4010 mmol) and ethanolic solution (1.0 ml) of benzene boronic acid (27 mg, 0.2214 mmol) and the mixture was heated with stirring at 95° C. for 16 hours. The reaction solution was diluted with ethyl acetate (100 ml), washed with water and dried and the solvent was evaporated therefrom. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=6:1) to give the title compound (84 mg, 0.1926 mmol, 96%).

reactant | methyl 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(trifluoromethanesulfonyl)oxybenzoate | 0.2007 mmol, 102 mg | COC=1C(=C(CC2=CC(=C(C(=O)OC)C=C2)OS(=O)(=O)C(F)(F)F)C(=C(C1OC)OC)OC)C | C21H23F3O9S
reactant | sodium carbonate | 2M, 0.35 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | lithium chloride | 0.4010 mmol, 17 mg | [Cl-].[Li+]
reactant | benzene boronic acid | 0.2214 mmol, 1.0 ml, 27 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 2.3 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-phenylbenzoate | 0.1926 mmol, 84 mg, 96% | COC=1C(=C(CC2=CC(=C(C(=O)OC)C=C2)C2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C26H28O6
